US08334301B2
ethyl 1-phenyl-5-[(phenylsulfonyl)amino]-1H-pyrazole-3-carboxylate
Ethyl 5-amino-1-phenyl-1H-pyrazole-3-carboxylate (498 mg) synthesized according to the method described in WO2004/98589 and 4-dimethylaminopyridine (21 mg) were dissolved in pyridine (10 mL), and benzenesulfonyl chloride (461 mg) was added at room temperature. After stirring at 85° C. for 8 hr, 1 mol/L hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The extract was washed with 1 mol/L hydrochloric acid, water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=1:1→ethyl acetate), and the obtained solid was washed with a mixed solvent of diisopropyl ether and ethyl acetate to give the title compound as a brown powder (yield 445 mg, yield 69%).

reactant | Ethyl 5-amino-1-phenyl-1H-pyrazole-3-carboxylate | 498 mg | NC1=CC(=NN1C1=CC=CC=C1)C(=O)OCC | C12H13N3O2
reactant | benzenesulfonyl chloride | 461 mg | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
catalyst | 4-dimethylaminopyridine | 21 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 1-phenyl-5-[(phenylsulfonyl)amino]-1H-pyrazole-3-carboxylate | yield 445 mg, yield 69% | C1(=CC=CC=C1)N1N=C(C=C1NS(=O)(=O)C1=CC=CC=C1)C(=O)OCC | C18H17N3O4S
